US06878715B1
To a stirring suspension of (R)-1-(5-hydroxyhexyl)-8-bromo-3-methylxanthine (2.9 g, 8.4 mmol) and potassium carbonate (1.50 g, 10.5 mmol) in dimethylformamide (70 ml) was added chloromethyl ethyl ether (0.83 g), 8.8 mmol). After stirring overnight at room temperature, the mixture was poured into ice cold water (200 ml) and was stirred at 0-5° C. for 1 hour. The precipitate was filtered, rinsed with water (5×25 ml) and dried under vacuum to provide (R)-1-(5-hydroxyhexyl)-8-bromo-7-ethoxymethyl-3-methylxanthine (2.5 g, 74% yield) as a white solid.

reactant | (R)-1-(5-hydroxyhexyl)-8-bromo-3-methylxanthine | 8.4 mmol, 2.9 g | O[C@@H](CCCCN1C(=O)N(C=2N=C(NC2C1=O)Br)C)C | C12H17BrN4O3
reactant | potassium carbonate | 10.5 mmol, 1.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl ethyl ether | 0.83 g | C(C)OCCl | C3H7ClO
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | (R)-1-(5-hydroxyhexyl)-8-bromo-7-ethoxymethyl-3-methylxanthine | 2.5 g, 74% yield | O[C@@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)COCC)Br)C)C | C15H23BrN4O4
